US09212154B2
Thiazolidine-2,4-dicarboxylic acid (1.00 g, 5.67 mmol) synthesized from L-cysteine and glyoxylic acid (aqueous solution) were added to a methanol solution (15 ml) of thionyl chloride (22.6 mmol), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated, and to the residue was added ether. The crystals were collected by filtration, washed with ether, and dried under reduced pressure to give thiazolidine-2,4-dicarboxylic acid 2,4-dimethyl ester hydrochloride as crystals (1.29 g, 94.0%).

reactant | Thiazolidine-2,4-dicarboxylic acid | 5.67 mmol, 1.00 g | S1C(NC(C1)C(=O)O)C(=O)O | C5H7NO4S
reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | thionyl chloride | 22.6 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 15 ml | CO | CH4O
product | thiazolidine-2,4-dicarboxylic acid 2,4-dimethyl ester hydrochloride | 1.29 g, 94.0% | Cl.COC(=O)C1SCC(N1)C(=O)OC | InChI=1S/C7H11NO4S.ClH/c1-11-6(9)4-3-13-5(8-4)7(10)12-2;/h4-5,8H,3H2,1-2H3;1H
